US06555541B1
e) 4-{4-Chloro-3-[2-(3,4-difluoro-phenylamino)-acetylamino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester
Potassium iodide (10 mg), 3,4-difluoroaniline (0.4 ml), N,N-diisopropyl ethylamine (0.9 ml) and 4-[4-chloro-3-(2-chloro-acetylamino)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester (500 mg) were combined in N,N-dimethylformamide (10 ml) and heated at 90° C. for 24 hr. After cooling to room temperature, the reaction was poured into ethyl acetate/water. The organic layer was separated, washed with water (×3) and brine, dried (MgSO4) and concentrated. Purification of the residue by silica gel chromatography (eluting ethyl acetate/iso-hexane (1:2 to 1:1) gave the subtitle product (360 mg).

reactant | Potassium iodide | 10 mg | [I-].[K+]
reactant | 3,4-difluoroaniline | 0.4 ml | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | N,N-diisopropyl ethylamine | 0.9 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-[4-chloro-3-(2-chloro-acetylamino)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 500 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)NC(CCl)=O | C17H23Cl2N3O3
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 4-{4-Chloro-3-[2-(3,4-difluoro-phenylamino)-acetylamino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | 360 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)NC(CNC1=CC(=C(C=C1)F)F)=O | C23H27ClF2N4O3
